US05631280
Step 1: Preparation of methyl 4-acetyl-3-nitrobenzoate (35)
A solution of methyl 3-nitro-4-chlorobenzoate (0.70 g) in ethyl acetate (2 mL) was added to a solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (1.50 mL) and nitroethane (0.70 mL) at 0° C. The mixture was stirred for 5 h and partitioned with ethyl acetate and water. Potassium permanganate (0.57 g) was added to the water layer and resulting solution was stirred for 45 minutes. Toluene (20 mL) was added and mixture was stirred slowly. The toluene layer was separated and washed with saturated sodium chloride, dried over magnesium sulfate and concentrated in vacuo to afford the crude product. Purification on silica gel with hexane/ethyl acetate 7/3 gave the title compound. NMR (300 MHz, CDCl3) δ 8.74 (1H, s,), 8.36 (1H, d, J=8 Hz), 7.50 (1 H, d, J=8 Hz), 4.00 (3H, s), 2.58 (3H, s).

reactant | methyl 3-nitro-4-chlorobenzoate | 0.70 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1Cl | C8H6ClNO4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.50 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | nitroethane | 0.70 mL | [N+](=O)([O-])CC | C2H5NO2
reactant | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-acetyl-3-nitrobenzoate | C(C)(=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C10H9NO5
